* bounded native ngspice raw-file probe; no campaign model
V1 in 0 PULSE(0 5 0 1n 1n 200u 400u)
R1 in out 1k
C1 out 0 1u
.tran 1u 1m
.control
set filetype=ascii
run
write native-probe-ascii.raw all
.endc
.end
